US04346087
Into an apparatus similar to that in Example 1, were charged 315.1 g (1 mole) of N-dodecoxyethyldiethylenetriamine and 130.1 g (1 mole) of ethyl acetoacetate at 150° to 160° C., 18 g of water and 46 g of ethanol were distilled off to obtain 4-dodecoxyethylaminoethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one.

reactant | N-dodecoxyethyldiethylenetriamine | 1 mole, 315.1 g | C(CCCCCCCCCCC)OCCNCCNCCN | C18H41N3O
reactant | ethyl acetoacetate | 1 mole, 130.1 g | C(CC(=O)C)(=O)OCC | C6H10O3
product | 4-dodecoxyethylaminoethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | C(CCCCCCCCCCC)OCCNCCN1CCN=C(CC1=O)C | C22H43N3O2
